US08003662B2
Step E: Preparation of 2-benzyl-5-(3-fluoro-4-hydroxyphenyl)pyrimidin-4(3H)-one:
A suspension of 2-benzyl-5-(4-(benzyloxy)-3-fluorophenyl)pyrimidin-4(3H)-one (0.284 g, 0.735 mmol) in trifluoroacetic acid (3 mL) was stirred at 40° C. for 2 hours and then at room temperature for 16 hours. The reaction mixture was concentrated to dryness and then purified by flash column chromatography, eluting with 20:1 dichloromethane/MeOH. The desired product (0.177 g, 81%) was obtained as a white solid. 1H NMR (400 MHz, DMSO-d6) δ 12.89 (br s, 1H), 9.98 (s, 1H), 8.08 (s, 1H), 7.58 (dd, J=2.3, 13.3 Hz, 1H), 7.39-7.30 (m, 5H), 7.28-7.22 (m, 1H), 6.96 (dd, J=8.2, 9.4 Hz, 1H), 3.89 (s, 2H). LRMS (ESI pos) m/e 297 (M+1).

reactant | 2-benzyl-5-(4-(benzyloxy)-3-fluorophenyl)pyrimidin-4(3H)-one | 0.735 mmol, 0.284 g | C(C1=CC=CC=C1)C1=NC=C(C(N1)=O)C1=CC(=C(C=C1)OCC1=CC=CC=C1)F | C24H19FN2O2
solvent | trifluoroacetic acid | 3 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 2-benzyl-5-(3-fluoro-4-hydroxyphenyl)pyrimidin-4(3H)-one | 0.177 g, 81% | C(C1=CC=CC=C1)C1=NC=C(C(N1)=O)C1=CC(=C(C=C1)O)F | C17H13FN2O2
